US08278442B2
Preparation 23: 6-(5-Bromomethylnaphthalen-1-yloxy)nicotinonitrile
To a solution of 6-(5-methylnaphthalen-1-yloxy)nicotinonitrile (Preparation 22) (530 mg, 2.04 mmol) in carbon tetrachloride (30 mL) under argon was added N-bromosuccinimide (435 mg, 2.44 mmol) followed by benzoyl peroxide (25 mg, 0.1 mmol). The mixture was heated to 70° C. for 16 h. The reaction mixture was cooled, filtered through celite, and washed with DCM (70 mL). The organic phase was washed with NaHCO3 (30 mL), brine (30 mL) and dried (MgSO4). Solvent was removed in vacuo to give the title compound: RT=3.93 min; m/z (ES+)=341.0 [M+H]+.

reactant | 6-(5-methylnaphthalen-1-yloxy)nicotinonitrile | 2.04 mmol, 530 mg | CC1=C2C=CC=C(C2=CC=C1)OC1=NC=C(C#N)C=C1 | C17H12N2O
reactant | N-bromosuccinimide | 2.44 mmol, 435 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.1 mmol, 25 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-(5-Bromomethylnaphthalen-1-yloxy)nicotinonitrile | BrCC1=C2C=CC=C(C2=CC=C1)OC1=NC=C(C#N)C=C1 | C17H11BrN2O
